US05658908
A solution of (-)-3-((αR)-α-((2R,5S)-4-allyl-2,5-dimethyl-1-piperazinyl)-4-bromobenzyl)phenol (3.00 g, 7.2 mmol), from Example 70, in 80 mL of dry tetrahydrofuran was cooled to -78° C. n-Butyllithium (9.9 mL of a 1.6M solution in hexanes) was added at a rate to keep the temperature below -70° C. After stirring at -78° C. for 30 minutes, the reaction was quenched with 15 mL of saturated aqueous ammonium chloride, warmed to room temperature, diluted with water and extracted with ethyl acetate. The ethyl acetate extracts were combined, dried over sodium sulfate, and the solvent removed under vacuum to give a white solid which was recrystallized from acetonitrile to give 2.11 g (88%) of (-)-3-((αR)-α-((2R,5S)-4-allyl-2,5-dimethyl-1-piperazinyl)benzyl)phenol as white crystals, mp 195°-197° C., [α]D20 =-2.8° (tetrahydrofuran, c=1.6). HPLC on β-cyclodextrin with methanol:0.1M ammonium acetate/1:1 gave one peak at tR =8.4 min. NMR (DMSO-d6, 200 MHz): δ0.95 (d, J=6 Hz, 3H); 1.1 (d, J=6 Hz, 3H); 1.8 (dd, J1 =7 Hz, J2 =11 Hz, 1H); 2.1 (dd, J1 =7 Hz, J2 =9 Hz, 1H); 2.4-2.8 (m, 4H); 2.9 (dd, J1 7 Hz, J2 =14 Hz, 1H); 3.15 (dd, J1 =5 Hz, J2 =14 Hz, 1H); 4.95 (s, 1H); 5.1 (d, J=10 Hz, 1H); 5.2 (d, J=18 Hz, 1H); 5.8 (m, 1H); 6.6 (d, J=8 Hz, 1H); 6.8 (d, J=8 Hz, 1H); 6.95 (s, 1H); 7.1 (t, J=8 Hz, 1H); 7.3 (m, 5H); 9.3 (s, 1H). Mass spectrum (Cl--CH4) m/z: 337 (M+1, 69%); 336 (M+, 15%); 183 (100%); 153 (92%). Calc. for C22H28N2O: C, 78.53; H, 8.39; N, 8.33. Found: C, 78.37; H, 8.47; N, 8.38.

reactant | (-)-3-((αR)-α-((2R,5S)-4-allyl-2,5-dimethyl-1-piperazinyl)-4-bromobenzyl)phenol | 7.2 mmol, 3.00 g | C(C=C)N1C[C@H](N(C[C@@H]1C)[C@H](C1=CC=C(C=C1)Br)C=1C=C(C=CC1)O)C | C22H27BrN2O
reactant | n-Butyllithium | C(CCC)[Li]
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | (-)-3-((αR)-α-((2R,5S)-4-allyl-2,5-dimethyl-1-piperazinyl)benzyl)phenol | 2.11 g, 88% | C(C=C)N1C[C@H](N(C[C@@H]1C)[C@H](C1=CC=CC=C1)C=1C=C(C=CC1)O)C | C22H28N2O
